US04535171
8-Methylthiodibenzo[b,f]thiepin-3-carboxaldehyde-5,5-dioxide
Dissolve the crude 8-methylthiodibenzo[b,f]thiepin-3-carboxylic acid chloride-5,5-dioxide in glyme, and with stirring under dry nitrogen, add a filtered solution of 1.1 equivalents of lithium tri-tertiary butoxy-aluminum hydride in glyme dropwise with cooling (ice-bath). Stir the mixture for 1 hour after the addition is complete and pour into ice-cold dilute hydrochloric acid. Isolate the crude title compound by extraction with chloroform and purify the compound by column chromatography on silica gel usin toluene as the solvent.

reactant | 8-methylthiodibenzo[b,f]thiepin-3-carboxylic acid chloride-5,5-dioxide | CSC=1C=CC2=C(C=CC3=C(S2(=O)=O)C=C(C=C3)C(=O)Cl)C1 | C16H11ClO3S2
reactant | lithium tri-tertiary butoxy-aluminum hydride | 1.1 equivalents | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | glyme | C(OC)COC | C4H10O2
product | 8-Methylthiodibenzo[b,f]thiepin-3-carboxaldehyde-5,5-dioxide | CSC=1C=CC2=C(C=CC3=C(S2(=O)=O)C=C(C=C3)C=O)C1 | C16H12O3S2
